US04681879
3-Methyl-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To a suspension of sodium hydride (3.20 g, 60% dispersion in oil, washed twice with hexane) in 20 ml dimethylformamide/benzene (20:80) was added a solution of [1-(2-fluorobenzyl)-5-methylpyrrol-2-yl][(1-methyl)piperidin-4-yl]methanol (15.45 g, 0.088 mole) in 80 ml of the same solvent. This was heated at 70° C. for 5 hours.

reactant | sodium hydride | [H-].[Na+]
reactant | [1-(2-fluorobenzyl)-5-methylpyrrol-2-yl][(1-methyl)piperidin-4-yl]methanol | 0.088 mole, 15.45 g | FC1=C(CN2C(=CC=C2C)C(O)C2CCN(CC2)C)C=CC=C1 | C19H25FN2O
product | 3-Methyl-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | CC1=CC=C2C(OC3=C(CN21)C=CC=C3)C3CCN(CC3)C | C19H24N2O
